US08563565B2
Synthesis of 7-(6-methoxy-2,4-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
7-bromo-5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one obtained in Preparation Example 1(4) (41 mg) was dissolved in DMF (2 mL). (6-methoxy-2,4-dimethylpyridin-3-yl)boronic acid obtained in Preparation Example 24 (15 mg), Pd(PPh3)4 (4.8 mg), cesium carbonate (54 mg) and water (0.5 mL) were added to the solution, and the mixture was reacted using a microwave reactor at 150° C. for two hours. The reaction mixture was returned to room temperature and then concentrated under reduced pressure. The resulting residue was dissolved in TFA (1 mL), and the mixture was stirred at 65° C. for two hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. The resulting residue was neutralized by adding a 5 N aqueous sodium hydroxide solution. The aqueous solution was extracted with DCM. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 50% to 100%) to give the title compound (3.7 mg).

reactant | 7-bromo-5-(2,4-dimethoxybenzyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | BrC=1C=CC=2C3=C(C(N(C2C1)CC1=C(C=C(C=C1)OC)OC)=O)C=NN3C3CCOCC3 | C24H24BrN3O4
reactant | (6-methoxy-2,4-dimethylpyridin-3-yl)boronic acid | COC1=CC(=C(C(=N1)C)B(O)O)C | C8H12BNO3
reactant | cesium carbonate | 54 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 0.5 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 4.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(6-methoxy-2,4-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 3.7 mg | COC1=CC(=C(C(=N1)C)C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3C3CCOCC3)C | C23H24N4O3
